US04267193
N-Ethoxycarbonylmethyl-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline
Combine ethyl N-ethoxycarbonylmethyl-2,6-dimethylaniline (10.4 g, 50 mmol) with hexafluoroacetone sesquihydrate (20 g, 100 mmol) and 0.2 g p-toluenesulfonic acid. Reflux 5 hours, allow to cool, and pour onto water. Decant, and partition the oil between ether and water. Wash with 1.0 N HCl, then 1.0 N NaHCO3. Dry and concentrate. Recrystallize from ether-hexane and sublime at 80° C./0.1 mm. Recrystallize the sublimate from ethanol-water, then benzene-hexane to give the title compound as a white solid, m.p. 91°-93° C.

reactant | ethyl N-ethoxycarbonylmethyl-2,6-dimethylaniline | 50 mmol, 10.4 g | C(C)N(C1=C(C=CC=C1C)C)CC(=O)OCC | C14H21NO2
reactant | hexafluoroacetone sesquihydrate | 100 mmol, 20 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-Ethoxycarbonylmethyl-2,6-Dimethyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline | C(C)OC(=O)CNC1=C(C=C(C=C1C)C(C(F)(F)F)(C(F)(F)F)O)C | C15H17F6NO3
